US07705004B2
To a solution of 1-(4-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (60 mg, 0.097 mmol) in methanol (MeOH) (4 mL), aq. 1N potassium hydroxide (KOH) (1.0 mL, 1.0 mmol) was added. The mixture was heated at 60° C. for 5 h before it was concentrated in vacuo. The residue was acidified with acetic acid (HOAc) (1 mL) before being purified by HPLC to give 1-(4-(4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (21 mg), MS 468.2 (M+H) (Compound 1-1); and N4-(1H-indazol-6-yl)-N2-(4-(piperazin-1-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (3 mg), MS 426.3 (M+H) (Compound 1-2).

reactant | 1-(4-(4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 0.097 mmol, 60 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C32H31N9O3S
reactant | potassium hydroxide | 1.0 mmol, 1N, 1.0 mL | [OH-].[K+]
solvent | methanol | 4 mL | CO | CH4O
product | 1-(4-(4-(4-(1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 21 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)NC=C2 | C25H25N9O
